US08039460B2
Step D: 3-Piperidin-4-ylpyridin-2(1H)-one
tert-Butyl 4-(2-methoxypyridin-3-yl)piperidine-1-carboxylate (204 mg, 0.70 mmol) was added to hydrochloric acid (6.0 M in water; 5.81 mL, 34.89 mmol). After 18 h, the reaction mixture was concentrated and dried under reduced pressure to give the title compound. MS 179.1 (M+1).

reactant | tert-Butyl 4-(2-methoxypyridin-3-yl)piperidine-1-carboxylate | 0.70 mmol, 204 mg | COC1=NC=CC=C1C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O3
reactant | hydrochloric acid | 34.89 mmol, 6.0 M, 5.81 mL | Cl | ClH
product | 3-Piperidin-4-ylpyridin-2(1H)-one | N1CCC(CC1)C=1C(NC=CC1)=O | C10H14N2O
